US07211672B2
To a flask was added Pd2(dba)3 (molar 0.05 equ.), and rac-BINAP (0.1 equ.) in degassed toluene and stirred for 1 h. To the above solution was added 2,5-dichloropyridinepyridine (1.1 equ.) and NaOtBu (1.1 equ.) and stirred for 30 min. The corresponding amine, (±)-cis-(4-amino-2-methyl-3,4-dihydro-2H-quinolin-1-yl)-(3-methoxy-phenyl)-methanone was dissolved in degassed toluene and added to the solution and heated to 60° C. for 40 h. The reaction was diluted with ether and filtered through celite and concentrated down. The compound was purified by Biotage with 20% EtOAc/80% Hexane to give 45% of the product. (±)-Cis-[4-(5-chloro-pyridin-2-ylamino)-2-methyl-3,4-dihydro-2H-quinolin-1-yl]-(3-methoxy-phenyl)-methanone was acetylated with propionyl chloride as previously described to give (±)-cis-N-(5-chloro-pyridin-2-yl)-N-[1-(3-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide.

reactant | (±)-Cis-[4-(5-chloro-pyridin-2-ylamino)-2-methyl-3,4-dihydro-2H-quinolin-1-yl]-(3-methoxy-phenyl)-methanone | ClC=1C=CC(=NC1)N[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC(=CC=C1)OC)C | C23H22ClN3O2
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | (±)-cis-N-(5-chloro-pyridin-2-yl)-N-[1-(3-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | ClC=1C=CC(=NC1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC(=CC=C1)OC)=O)C | C25H24ClN3O3
